US07576094B2
To a solution of 7-chloro-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol (300 mg), prepared as described above, and dimethylaminoacetyl chloride hydrochloride (564 mg) in dichloromethane (8 mL) was added N-ethyldiiospropylamine (1.4 mL) dropwise at room temperature under nitrogen. The reaction mixture was stirred at room temperature for 16 hours. The solution was diluted with ethyl acetate and washed with water and brine, dried and evaporated. Chromatography (silica gel, hexane-ethyl acetate 5% to 25%) gave 276 mg of 7-chloro-5,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl (dimethylamino)acetate.

reactant | 7-chloro-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 300 mg | ClC1(C(C=C2CCC3(CCC3)OC2=C1C)O)C | C14H19ClO2
reactant | dimethylaminoacetyl chloride hydrochloride | 564 mg | Cl.CN(C)CC(=O)Cl
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-5,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl (dimethylamino)acetate | 276 mg | CN(C)CC(=O)OC=1C(=C2CCC3(CCC3)OC2=C(C1Cl)C)C | C18H24ClNO3
